US06310107B1
6-(3′-Aminobiphenyl-4-yl)methoxy-2-[2-(N,N-dimethylamino)ethyl]tetralin Hydrochloride
An ethanol solution (10 ml) of 3-aminophenylboric acid (1.3 g) and an aqueous 2M sodium carbonate solution (10 ml) were added to a toluene solution (80 ml) of 6-(4-bromobenzyl)oxy-2-[2-(N,N-dimethylamino)ethyl]tetralin (3.00 g) and tetrakis-(triphenylphosphine) palladium (0.45 g). The reaction mixture was heated under reflux for 12 hours in an argon atmosphere. A saturated aqueous sodium chloride solution was added to this, which was then extracted with ethyl acetate. The organic layer was dried, and then concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1/2), and then processed with 4 N hydrochloric acid-ethyl acetate to form a hydrochloride. The thus-formed salt was recrystallized from methanol-diisopropyl ether to obtain the entitled compound (0.78 g).

reactant | 3-aminophenylboric acid | 1.3 g | NC=1C=C(C=CC1)OB(O)O | C6H8BNO3
reactant | sodium carbonate | 2M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-(4-bromobenzyl)oxy-2-[2-(N,N-dimethylamino)ethyl]tetralin | 3.00 g | BrC1=CC=C(COC=2C=C3CCC(CC3=CC2)CCN(C)C)C=C1 | C21H26BrNO
reactant | sodium chloride | [Cl-].[Na+]
catalyst | tetrakis-(triphenylphosphine) palladium | 0.45 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(3′-Aminobiphenyl-4-yl)methoxy-2-[2-(N,N-dimethylamino)ethyl]tetralin Hydrochloride | Cl.NC=1C=C(C=CC1)C1=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCN(C)C | InChI=1S/C27H32N2O.ClH/c1-29(2)15-14-20-6-11-25-18-27(13-12-24(25)16-20)30-19-21-7-9-22(10-8-21)23-4-3-5-26(28)17-23;/h3-5,7-10,12-13,17-18,20H,6,11,14-16,19,28H2,1-2H3;1H
